US07842688B2
b) Benzyl 4-{4-[2-(3-ethoxyphenoxy)ethoxy]phenyl}-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidinecarboxylate
Analogously to Method I, 0.420 g of benzyl 3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[2-(toluene-4-sulphonyloxy)ethoxy]phenyl}piperidinecarboxylate and 0.124 g of ethoxyphenol are reacted. The title compound is obtained as a dark yellow oil. Rf=0.16 (1:1 EtOAc-heptane); Rt=5.68.

reactant | benzyl 3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-{4-[2-(toluene-4-sulphonyloxy)ethoxy]phenyl}piperidinecarboxylate | 0.420 g | COCCCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)OCCOS(=O)(=O)C2=CC=C(C=C2)C)C(=O)OCC2=CC=CC=C2)=O | C41H46N2O10S
reactant | ethoxyphenol | 0.124 g | C(C)OC1=C(C=CC=C1)O | C8H10O2
product | Benzyl 4-{4-[2-(3-ethoxyphenoxy)ethoxy]phenyl}-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidinecarboxylate | C(C)OC=1C=C(OCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC3=C(N(C(CO3)=O)CCCOC)C2)C=CC1 | C42H48N2O9
